US07456289B2
Potassium tert-butoxide (5.4 g, 48 mmol) was added to 3-methyl-pyridin-3-ol (5 g, 45.87 mmol) in THF (200 mL) at 0° C. The mixture was stirred at room temperature for 30 min. MeI (3.2 mL, 48 mmol) was added dropwise at 0° C. and stirring was continued at room temperature for 8 h. Water was added and the mixture was evaporated to half its volume and extracted with EtOAc. The organic layer was washed with brine and water, dried over anhydrous MgSO4, and filtered. The filtrate was concentrated in vacuo, and the residue was purified by flash chromatography to give 5-methoxy-2-methyl-pyridine (4.8 g, 85%).

reactant | Potassium tert-butoxide | 48 mmol, 5.4 g | CC(C)([O-])C.[K+]
reactant | 3-methyl-pyridin-3-ol | 45.87 mmol, 5 g | CC1(CN=CC=C1)O | C6H9NO
reactant | MeI | 48 mmol, 3.2 mL | CI | CH3I
reactant | Water | O | H2O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-methoxy-2-methyl-pyridine | 4.8 g, 85% | COC=1C=CC(=NC1)C | C7H9NO
